US07576215B2
(4-HYDROXYPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE
(4-Methoxyphenyl)[4-phenyl-8-(trifluoromethyl)quinolin-3-yl]methanone (0.174 g) and pyridine hydrochloride are heated at 200° C. for 2 h and then cooled. The resulting solid is taken into methylene chloride and 2N aq HCl. The layers are separated, the aqueous layer is extracted again, and the combined organics are washed with saturated sodium bicarbonate and dried over MgSO4. The residue is chromatographed eluting with 25:75 ethyl acetate:hexane to afford the title compound as a white solid (0.132 g). MS (ES) m/z 392.1; HRMS: calcd for C23H14F3NO2—H, 392.08984; found (ESI, [M−H]−), 392.0883.

reactant | (4-Methoxyphenyl)[4-phenyl-8-(trifluoromethyl)quinolin-3-yl]methanone | 0.174 g | COC1=CC=C(C=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C24H16F3NO2
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | HCl | 2N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (4-HYDROXYPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE | 0.132 g | OC1=CC=C(C=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C23H14F3NO2
